* Circuit: Chap20_LTspice/Fig20_16
.lib ${SKY130_PDK} tt

VDD VDD 0 1.8
xmsu2 N001 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=20
xmsu1 N001 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=2
xmsu3 Vbiasp N001 Vbiasn 0 sky130_fd_pr__nfet_01v8 w=1.47 l=1
xm3 Vbiasn Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=2
xm4 Vbiasp Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=2
xm1 Vbiasn Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=2
xm2 Vbiasp Vbiasn N002 0 sky130_fd_pr__nfet_01v8 w=1.47 l=2
R1 N002 0 6500.0

.control
set filetype=ascii

op
let power_dc = abs(i(VDD)) * 1.8
let vout_dc = v(Vbiasp)
print power_dc vout_dc

quit
.endc

.end
