* Circuit: Chap20_LTspice/Fig20_20
.lib ${SKY130_PDK} tt

VDD VDD 0 1.8
xmsu2 N001 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
xmsu1 N001 Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
xmsu3 Vbiasp N001 Vbiasn 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
xm3 Vbiasn Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm4 N002 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm1 Vbiasn Vbiasn 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
xm2 N002 Vbiasn N003 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
R1 N003 0 5500.0
E1 Vbiasp 0 N002 Vbiasn 10

.control
set filetype=ascii

op
let power_dc = abs(i(VDD)) * 1.8
let vout_dc = v(Vbiasp)
print power_dc vout_dc

quit
.endc

.end
