* Circuit: Chap20_LTspice/Fig20_26
.lib ${SKY130_PDK} tt

xm2 0 VD1 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm1 VD1 VD1 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
VDD VDD 0 1.8
R1 VD1 0 65000.0

.control
op

let vdd_current = abs(i(VDD))
let power_dc = vdd_current * 1.8
print power_dc

* Print all node voltages for diagnosis
print all

let vout_dc = v(VD1)
print vout_dc
let vout_dc = v(VD1)
print vout_dc
quit
.endc

.end
